US09278915B2
Intermediate 177: Ethyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-(phenylsulfanyl)propanoate
To a solution of methyl 5-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-oxo-1,3-dioxolane-4-carboxylate (0.8 g, 1.6 mmol) in THF was added Triethylamine (0.32 g, 3.2 mmol) and Thiophenol (0.34 g, 3.2 mmol) at 0° C. under argon then slowly warmed to RT, then stirring continued at 60° C. for 12 h. Reaction mass quenched with water and extracted with ethyl acetate, organic layer was washed with water and brine, dried over sodium sulphate and concentrated to yellow oil which was further purified by column (60-120 silica) using 20% ethyl acetate in pet ether to get the titled compound as yellow oil. (0.55 g, Yield: 61%) 1H NMR (300 MHz, DMSO): δ 7.62-7.65 (m, 2H), 7.27-7.40 (m, 8H), 7.22-7.24 (m, 2H), 7.11-7.14 (m, 2H), 6.90-6.93 (d, 4H), 5.21 (s, 2H), 5.01 (s, 2H), 4.63-4.73 (m, 1H), 4.01 (s, 3H), 3.89-3.91 (d, 1H), 3.59 (s, 3H).

reactant | methyl 5-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-oxo-1,3-dioxolane-4-carboxylate | 1.6 mmol, 0.8 g | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C2C(OC(O2)=O)C(=O)OC)C=C1)\C1=CC=CC=C1 | C27H25NO8
reactant | Triethylamine | 3.2 mmol, 0.32 g | C(C)N(CC)CC | C6H15N
reactant | Thiophenol | 3.2 mmol, 0.34 g | C1(=CC=CC=C1)S | C6H6S
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-(phenylsulfanyl)propanoate | Yield: 61% | OC(C(C(=O)OCC)SC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C33H33NO6S
